US05593988
6-Amino-4-(2-chlorophenyl)-9-cyclohexyl-2-ethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine (0.6 g) was dissolved in chloroform (15 ml) and 4-methoxyphenyl isocyanate (0.2 ml) was added thereto. The mixture was stirred for 30 minutes. The reaction mixture was purified by silica gel column chromatography and crystals obtained were recrystallized from methanol to give 0.49 g of N-(4-(2-chlorophenyl)-9-cyclohexyl-2-ethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-yl)-N'-(4-methoxyphenyl)urea having a melting point of 268°-269° C.

reactant | 6-Amino-4-(2-chlorophenyl)-9-cyclohexyl-2-ethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine | 0.6 g | NC1C=2N(C3=C(C(=N1)C1=C(C=CC=C1)Cl)C=C(S3)CC)C(=NN2)C2CCCCC2 | C22H24ClN5S
reactant | 4-methoxyphenyl isocyanate | 0.2 ml | COC1=CC=C(C=C1)N=C=O | C8H7NO2
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(4-(2-chlorophenyl)-9-cyclohexyl-2-ethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-yl)-N'-(4-methoxyphenyl)urea | 0.49 g | ClC1=C(C=CC=C1)C1=NC(C=2N(C3=C1C=C(S3)CC)C(=NN2)C2CCCCC2)NC(=O)NC2=CC=C(C=C2)OC | C30H31ClN6O2S
